US07202364B2
A solution of lithium diiosopropyl amide is generated by adding n-BuLi (360 mL of 2 M solution in THF) to diisopropylamine (73 g, 0.722 mol) in 500 mL of anhydrous THF while a reaction temperature of −60° C. is maintained by cooling in dry-ice acetone bath. After stirring for 30 minutes, 1-bromo-4-chloro-2-fluorobenzene (75 g, 0.36 mol) is added and stirring maintained at −70° C. for 2 hours. The cold solution is then transferred, via a cannula, under an inert atmosphere to a suspension of solid CO2 (100 g, excess) in anhydrous Et2O. The mixture is allowed to warm to room temperature with stirring and then the solvent removed by rotary evaporator. The residual solid is treated with 1 N HCl solution until pH=3.0 and the mixture is filtered. The white solid that is obtained is suspended in 1000 mL of 2 N HCl solution and stirred for an additional 1 hour. The suspension is filtered to collect a white solid which is air dried, suspended in 100 mL of hexanes and collected to give 2-chloro-5-bromo-6-fluorobenzoic acid.

reactant | lithium | [Li] | Li
reactant | n-BuLi | 2 M, 360 mL | [Li]CCCC
reactant | diisopropylamine | 0.722 mol, 73 g | C(C)(C)NC(C)C | C6H15N
reactant | 1-bromo-4-chloro-2-fluorobenzene | 0.36 mol, 75 g | BrC1=C(C=C(C=C1)Cl)F | C6H3BrClF
reactant | CO2 | 100 g | C(=O)=O | CO2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | dry-ice acetone | C(=O)=O.CC(=O)C
solvent | Et2O | CCOCC | C4H10O
solvent | HCl | 2 N, 1000 mL | Cl | ClH
product | 2-chloro-5-bromo-6-fluorobenzoic acid | ClC1=C(C(=O)O)C(=C(C=C1)Br)F | C7H3BrClFO2
